US08497264B2
A vial was charged with (R)-3-fluoropyrrolidine HCl (0.021 g, 0.170 mmol), (S)-3-bromo-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.050 g, 0.113 mmol) and RuPhos palladacycle (9.05 mg, 0.011 mmol). THF (1 mL) and LiHMDS (1N in THF; 0.567 mL, 0.567 mmol) were added, and the reaction mixture was allowed to stir at RT overnight. Additional RuPhos palladacycle (9.05 mg, 0.011 mmol) and LiHMDS solution (0.567 mL, 0.567 mmol) were added, and the reaction mixture was heated to 45° C. for 2 hours. The reaction mixture was then quenched with MeOH and concentrated under reduced pressure. Purification of the crude residue by column chromatography [0-100% (90:10:1 DCM/MeOH/NH4OH)/DCM] gave (S)-7-(2-fluoropyridin-3-yl)-3-((R)-3-fluoropyrrolidin-1-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.018 g, 0.040 mmol, 35.3% yield).

reactant | (R)-3-fluoropyrrolidine HCl | 0.170 mmol, 0.021 g | Cl.F[C@H]1CNCC1
reactant | (S)-3-bromo-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.113 mmol, 0.050 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)C=1C(=NC=CC1)F | C20H14BrFN4O2
reactant | LiHMDS | 0.567 mmol, 1N, 0.567 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | LiHMDS | 0.567 mmol, 0.567 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
catalyst | RuPhos palladacycle | 0.011 mmol, 9.05 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.CC(C)(C)OC.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
catalyst | RuPhos palladacycle | 0.011 mmol, 9.05 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.CC(C)(C)OC.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-7-(2-fluoropyridin-3-yl)-3-((R)-3-fluoropyrrolidin-1-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.040 mmol, 0.018 g, 35.3% yield | FC1=NC=CC=C1C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21COCC(=N1)N)N1C[C@@H](CC1)F | C24H21F2N5O2
